US04116956
To a solution of 2 parts of 7-chloro-2-methylmercapto-5-phenyl-3H-1,4-benzodiazepine in 70 parts by volume of ethanol is added 5 parts by volume of 80% hydrazine hydrate and the mixture is allowed to stand at room temperature for 3 days. After evaporation of the solvent, a small amount of water is added to the residue, whereby 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine is obtained as crystals. Recrystallization from a mixture of methylene chloride and benzene gives crystals. Melting point; 175° C (browning), 205° C to 207° C (decomposition).

reactant | 7-chloro-2-methylmercapto-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)SC)C2=CC=CC=C2)C1 | C16H13ClN2S
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
